US06890952B2
Z-(4RS) [5-(4-Chlorobenzylidene)-2,3,4,5-tetrahydro-benzo[b]oxepin-4-yl-methyl]-dimethylamine hydrochloride (7c)
7.27 g (4RS,5RS)-5-(4-chlorobenzyl)-4-dimethylaminomethyl-2,3,4,5-tetrahydrobenzo[b]oxepin-5-ol were reacted with 43 ml methanesulfonic acid and 4.81 g methionine analogously to the procedure described in example 6. After similarly analogous working up, separation of the product and salt formation, the title compounds were obtained in the form of white crystals.

reactant | (4RS,5RS)-5-(4-chlorobenzyl)-4-dimethylaminomethyl-2,3,4,5-tetrahydrobenzo[b]oxepin-5-ol | 7.27 g | ClC1=CC=C(CC2(C3=C(OCCC2CN(C)C)C=CC=C3)O)C=C1 | C20H24ClNO2
reactant | methanesulfonic acid | 43 ml | CS(=O)(=O)O | CH4O3S
reactant | methionine | 4.81 g | N[C@@H](CCSC)C(=O)O | C5H11NO2S
product | Z-(4RS) [5-(4-Chlorobenzylidene)-2,3,4,5-tetrahydro-benzo[b]oxepin-4-yl-methyl]-dimethylamine hydrochloride | Cl.ClC1=CC=C(\C=C\2/C3=C(OCCC2CN(C)C)C=CC=C3)C=C1 | InChI=1S/C20H22ClNO.ClH/c1-22(2)14-16-11-12-23-20-6-4-3-5-18(20)19(16)13-15-7-9-17(21)10-8-15;/h3-10,13,16H,11-12,14H2,1-2H3;1H/b19-13-;
